US08039460B2
Step A: Benzyl 4-{[(trifluoromethyl)sulfonyl]oxy}-3,6-dihydropyridine-1(2H)-carboxylate
n-Butyllithium (2.5 M in THF; 10.8 mL, 27.0 mmol) was added to a solution of diisopropylamine (3.79 mL, 27.0 mmol) in tetrahydrofuran (37 mL) at −78° C. After 5 min, the reaction mixture was warmed to 0° C. for 20 min then cooled backed down to −78° C. This mixture was added to a solution of benzyl 4-oxopiperidine-1-carboxylate (5.26 g, 22.5 mmol) in tetrahydrofuran (50 mL) at −78° C. After 1 h, a solution of N-phenyl-bis(trifluoromethanesulfonimide) (8.85 g, 24.8 mmol) in tetrahydrofuran (12 mL) was added. The mixture was warmed to 0° C. After 3 h, the mixture was quenched with saturated aqueous sodium bicarbonate and concentrated. The residue was diluted with saturated aqueous sodium bicarbonate and extracted with ether. The combined organic extracts were dried over magnesium sulfate and concentrated. Purification by silica gel chromatography (100% hexanes→60% hexanes/ethyl acetate). Repurification by silica gel chromatography (100% dichloromethane→93% dichloromethane/ethyl acetate) gave the title compound (3.52 g). MS 366.0 (M+1).

reactant | n-Butyllithium | 27.0 mmol, 2.5 M, 10.8 mL | C(CCC)[Li]
reactant | diisopropylamine | 27.0 mmol, 3.79 mL | C(C)(C)NC(C)C | C6H15N
reactant | benzyl 4-oxopiperidine-1-carboxylate | 22.5 mmol, 5.26 g | O=C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H15NO3
reactant | N-phenyl-bis(trifluoromethanesulfonimide) | 24.8 mmol, 8.85 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | tetrahydrofuran | 37 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | Benzyl 4-{[(trifluoromethyl)sulfonyl]oxy}-3,6-dihydropyridine-1(2H)-carboxylate | 3.52 g | FC(S(=O)(=O)OC=1CCN(CC1)C(=O)OCC1=CC=CC=C1)(F)F | C14H14F3NO5S
